US04990511
To a solution of 1-(2-aminoethyl)piperidine (368 mg) and 2,4-dibenzyloxyphenylacetic acid (1.0 g) in N,N-dimethylformamide are added triethylamine (1.2 ml) and diethylcyanophosphate (561 mg) in sequence. The mixture is stirred at room temperature for 30 minutes. To the reaction solution is added water and stirring carried out for 10 minutes. The product is extracted with dichloromethane. The dichloromethane layer is washed with water and dried over anhydrous sodium sulfate. The solvent is distilled off and the residue obtained is purified by silica gel column chromatography. The fractions eluted with dichloro-methane-methanol mixture (10 : 1) is recrystallized from dichloromethane-n-hexane mixture (1 : 5) to obtain 1-[2-(2,4-dibenzyloxyphenylacetyl)aminoethyl]piperidine (950 mg) in the colorless needle-like crystal form.

reactant | 1-(2-aminoethyl)piperidine | 368 mg | NCCN1CCCCC1 | C7H16N2
reactant | 2,4-dibenzyloxyphenylacetic acid | 1.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)O | C22H20O4
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | diethylcyanophosphate | 561 mg | C(C)OP(=O)(OCC)C#N | C5H10NO3P
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[2-(2,4-dibenzyloxyphenylacetyl)aminoethyl]piperidine | 950 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)CC(=O)NCCN1CCCCC1 | C29H34N2O3
